US09328119B2
To a solution of (S)-chloromethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate (4.53 g, 17 mmol) in acetone (50 mL) was added NaI (7.67 g, 51 mmol). The mixture was heated to reflux for 12 h. The solution was diluted with H2O (100 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography on silica gel, eluted with PE:EA=100:1 to 50:1, to give (S)-iodomethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate (3 g, 49%) as a white solid. 1H NMR (400 MHz, CDCl3): δ ppm 6.06-6.05-7.30 (d, J=2.2, 1H), 5.86-5.85 (d, J=2.0, 1H), 4.97-4.95 (d, J=4.0, 1H), 4.25-4.22 (m, 1H), 2.20-2.18 (m, 1H), 1.46 (s, 9H), 1.01-1.00 (d, J=3.6, 3H), 0.94-0.93 (d, J=3.4, 3H).

reactant | (S)-chloromethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 17 mmol, 4.53 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCCl)C(C)C | C11H20ClNO4
reactant | NaI | 51 mmol, 7.67 g | [Na+].[I-]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | H2O | 100 mL | O | H2O
product | (S)-iodomethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 3 g, 49% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCI)C(C)C | C11H20INO4
